US05779936
A solution of 25.2 g (0.1 mol) of 4-(4-pentylcyclohexyl) cyclohexanol in 50 ml of THF was added dropwise to a mixture of 5.2 g (0.11 mol) of sodium hydride and 20 ml of THF at a temperature of lower than 10° C. Then, 50 ml of DMF was further added and stirred for 1 hour at a room temperature. While keeping inside of the reaction system at a temperature of lower than 0°C., a solution of 21 g (0.1 mol) of 2-bromomethyl-2-ethyl-1,3-dioxane derived from commercially available 1-bromo-2-butanone in 50 ml of THF was added dropwise, and stirred for 2 hours at a room temperature and then for 2 hours at 50° C. This solution was added with 50 ml of 6N hydrochloric acid, stirred for 1 hour at 50° C., added with 200 ml of toluene, and extracted. The organic layer was washed once with an aqueous solution saturated with potassium carbonate and twice with water, and dried over anhydrous magnesium sulfate. After the anhydrous magnesium sulfate was separated, the solvent was distilled off under a reduced pressure, and the residue thus obtained was subjected to a silica gel column chromatography (eluate: toluene) to obtain 20.9 g (yield 65%) of 4-(4-pentylcyclohexyl)-(2-oxobutyloxy)cyclohexane.

reactant | 4-(4-pentylcyclohexyl) cyclohexanol | 0.1 mol, 25.2 g | C(CCCC)C1CCC(CC1)C1CCC(CC1)O | C17H32O
reactant | sodium hydride | 0.11 mol, 5.2 g | [H-].[Na+]
reactant | 2-bromomethyl-2-ethyl-1,3-dioxane | 0.1 mol, 21 g | BrCC1(OCCCO1)CC | C7H13BrO2
reactant | 1-bromo-2-butanone | BrCC(CC)=O | C4H7BrO
reactant | hydrochloric acid | 6N, 50 ml | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-(4-pentylcyclohexyl)-(2-oxobutyloxy)cyclohexane | 20.9 g, yield 65% | C(CCCC)C1CCC(CC1)C1CCC(CC1)OCC(CC)=O | C21H38O2
